US08710038B2
3-Phenyl-1H-pyrazole-5-carboxylic acid:
To a solution of methyl 3-phenyl-1H-pyrazole-5-carboxylate (6.02 g, 29.8 mmol) in THF and H2O (3:1, 140 mL) was added LiOH (3.42 g, 142.8 mmol) and the mixture was stirred overnight at room temperature. It was poured into 2N HCl solution (150 mL) and extracted with ethyl acetate. After extration, the organic layer was dried over anhydrous sodium sulfate, filtered and concentrated at reduced pressure to afford product (3.2 g, 57.1%): MS (EI) for C10H8N2O2: 189.26 (MH+).

reactant | methyl 3-phenyl-1H-pyrazole-5-carboxylate | 29.8 mmol, 6.02 g | C1(=CC=CC=C1)C1=NNC(=C1)C(=O)OC | C11H10N2O2
reactant | LiOH | 142.8 mmol, 3.42 g | [Li+].[OH-]
reactant | HCl | 2N, 150 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 140 mL | O | H2O
product | 3-Phenyl-1H-pyrazole-5-carboxylic acid | 3.2 g, 57.1% | C1(=CC=CC=C1)C1=NNC(=C1)C(=O)O | C10H8N2O2
